US04150137
To a solution of 2.2 g of 2-pyridinemethanol in 20 ml of tetrahydrofuran were added 3 g of 2-(4-isobutylphenyl)propionic acid chloride and subsequently 2.7 g of triethylamine, and the mixture was reacted at room temperature for 2 hours. After the reaction was complete, the crystals produced were removed by filtration. The filtrate was freed of solvent by distillation to leave a residue, to which was added water. The resulting mixture was extracted with ether. The ether extract was dehydrated and freed of ether by distillation. The oily residue thus obtained was distilled in vacuo to give 3.5 g of 2-(4-isobutylphenyl)propionic acid-2-pyridylmethyl ester as a pale yellow oil, boiling at 138°-140° C./0.15 mmHg. Mass spectrum: parent ion 297 m/e.

reactant | 2-pyridinemethanol | 2.2 g | N1=C(C=CC=C1)CO | C6H7NO
reactant | 2-(4-isobutylphenyl)propionic acid chloride | 3 g | C(C(C)C)C1=CC=C(C=C1)C(C(=O)Cl)C | C13H17ClO
reactant | triethylamine | 2.7 g | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-(4-isobutylphenyl)propionic acid-2-pyridylmethyl ester | 3.5 g | N1=C(C=CC=C1)COC(C(C)C1=CC=C(C=C1)CC(C)C)=O | C19H23NO2
